US04536508
1,3-dimethyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine
A stirred suspension of 4-[3-(1-piperidinylmethyl)phenoxy]butanoic acid (4.0 g) in methylene chloride (100 ml) and dimethylformamide (24 drops) was treated with thionyl chloride (5.16 g). The solution was stirred at room temperature for 18 h and evaporated in vacuo, to give a pale yellow solid which was dissolved in methylene chloride (100 ml) and treated with 5-amino-1,3-dimethyl-1,2,4-triazole (1.61 g). The reaction mixture was stirred at room temperature for 24 h and evaporated in vacuo. The residue was dissolved in aqueous sodium bicarbonate solution and extracted with ethyl acetate. The organic extracts were dried and evaporated to give a brown oil which was dissolved in tetrahydrofuran (500 ml), treated with lithium aluminium hydride (3.04 g), stirred at room temperature for 18 h and refluxed for 3 h. The cooled reaction mixture was quenched with water (300 ml) and extracted with ethyl acetate. The combined extracts were washed with brine, dried and evaporated in vacuo to give an oil which was distilled to give the title compound (1.7 g) as a pale yellow oil, b.p. 230°/0.06 mm.

reactant | 4-[3-(1-piperidinylmethyl)phenoxy]butanoic acid | 4.0 g | N1(CCCCC1)CC=1C=C(OCCCC(=O)O)C=CC1 | C16H23NO3
reactant | thionyl chloride | 5.16 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-amino-1,3-dimethyl-1,2,4-triazole | 1.61 g | NC1=NC(=NN1C)C | C4H8N4
reactant | lithium aluminium hydride | 3.04 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
catalyst | dimethylformamide | 24 drops | CN(C=O)C | C3H7NO
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1,3-dimethyl-N-[4-[3-(1-piperidinylmethyl)phenoxy]butyl]-1H-1,2,4-triazole-5-amine | 1.7 g | CN1N=C(N=C1NCCCCOC1=CC(=CC=C1)CN1CCCCC1)C | C20H31N5O
